Buck Converter CCM
Vin in 0 DC $VIN
Vpwm gate 0 PULSE(0 5 0 1n 1n $TON $T)
S1 in sw gate 0 SWMOD
D1 0 sw DMOD
L1 sw out $L IC=0
C1 out 0 $C IC=0
RL out 0 $R

.MODEL SWMOD SW(Ron=0.01 Roff=1MEG Vt=2.5)
.MODEL DMOD D(Is=1n N=1 Rs=0.01)

.SAVE v(out) v(sw) i(L1)

.TRAN $TSTEP $TEND $TSTART UIC
.END
