Buck Converter CCM
Vin in 0 DC 100
Vpwm gate 0 PULSE(0 5 0 1n 1n 0.0000400000 0.0001000000)
S1 in sw gate 0 SWMOD
D1 0 sw DMOD
L1 sw out 0.6e-3 IC=0
C1 out 0 50e-6 IC=0
RL out 0 2.5
.MODEL SWMOD SW(Ron=0.01 Roff=1MEG Vt=2.5)
.MODEL DMOD D(Is=1n N=1 Rs=0.01)
.TRAN 0.0000002000 0.005000 UIC
.SAVE v(out) v(sw) i(l1) i(vin)
.END