Common Emitter Amplifier
* Supply and bias
Vcc vcc 0 DC 12
Rb1 vcc base 100k
Rb2 base 0 22k
Rc  vcc col 3.3k
Re  emit 0 1k

* BJT
Q1 col base emit BC547

* Input signal (AC coupled)
Vin sig 0 SIN(0 0.01 10k)
Cin sig base 10u
Cout col out 10u
RL  out 0 10k

.MODEL BC547 NPN(Is=1e-14 Bf=200 Vaf=100)

.OP
.TRAN 0.00000050 0.001000

.SAVE v(base) v(col) v(emit) v(out)
.END