BJT Output Characteristics
Vce vce 0 DC 0
Ib  base 0 DC 0
Q1  vce base 0 BC547

.MODEL BC547 NPN(Is=1e-14 Bf=200 Vaf=100)

.DC Vce 0 10 0.1 Ib 50u 60u 10u

.SAVE i(Vce) i(Ib)
.END